US07439231B2
2-Acetylamino-2-(9-tert-butoxycarbonyl-9H-carbazol-3-ylmethyl)-malonic acid diethyl ester
To a stirred suspension of sodium hydride (100 mg of a 60% dispersion in oil, 2.5 mmol) in THF (10 mL) at about 0° C. under an atmosphere of argon, was added dropwise a solution of acetamido diethyl malonate (241 mg, 1.1 mmol) in THF (1 mL). The stirred reaction mixture was allowed to warm to room temperature over about 30 minutes, cooled to about 0° C. and a solution of N-Boc 3-bromomethylcarbazole (400 mg, 1.1 mmol) in THF (2 mL) was added. The stirred reaction mixture was heated at about 60° C. for about 6 h. The cooled reaction mixture was quenched with brine (10 mL), and extracted with ethyl acetate (3×20 mL). The combined organic extracts were washed with water (10 mL), dried (MgSO4) and solvent was removed in vacuo. The crude product was purified using column chromatography on silica gel with 1:1 hexane/ethyl acetate as eluant to afford the product (150 mg, 27% yield). ES-MS (M+H)+ 497.3 (calc. 497.2).

reactant | sodium hydride | [H-].[Na+]
reactant | acetamido diethyl malonate | 1.1 mmol, 241 mg | CCOC(=O)C(C(=O)OCC)NC(=O)C | C9H15NO5
reactant | N-Boc 3-bromomethylcarbazole | 1.1 mmol, 400 mg | C(=O)(OC(C)(C)C)N1C2=CC=CC=C2C=2C=C(C=CC12)CBr | C18H18BrNO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 2-Acetylamino-2-(9-tert-butoxycarbonyl-9H-carbazol-3-ylmethyl)-malonic acid diethyl ester | 150 mg, 27% yield | C(C)OC(C(C(=O)OCC)(CC=1C=CC=2N(C3=CC=CC=C3C2C1)C(=O)OC(C)(C)C)NC(C)=O)=O | C27H32N2O7
